US09290485B2
g) 1-[4-(5-Methyl-pyrazol-1-ylmethyl)-benzyl]-1H-[1,2,3]triazole-4-carboxylic acid (6-amino-2,4-dimethyl-pyridin-3-ylmethyl)-amide
A mixture of {4,6-Dimethyl-5-[({1-[4-(5-methyl-pyrazol-1-ylmethyl)-benzyl]-1H-[1,2,3]triazole-4-carbonyl}-amino)-methyl]-pyridin-2-yl}-carbamic acid tert-butyl ester (132 mg, 0.249 mmol) and 5 mL of TFA in 10 mL of DCM was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure. The residue was purified by preparative HPLC (Waters SunFire Prep C18 OBD 5 μm 30×100 mm, Flow 40 mL/min, ACN/water (0.1% TFA) 5/95 over 2 min, then ACN/water (0.1% TFA) 5/95-100/0 over 15 min) to yield the title compound. 1H-NMR (DMSO-d6, 600 MHz) 8.59 (s, 1H), 8.29 (t, 1H), 7.33 (s, 1H), 7.28 (d, 2H), 7.09 (d, 2H), 6.09 (s, 1H), 6.05 (s, 1H), 5.63 (s, 2H), 5.59 (s, 2H), 5.26 (s, 2H), 4.32 (d, 2H), 2.29 (s, 3H), 2.17 (s, 3H), 2.16 (s, 3H); [M+H]+=431.0.

reactant | {4,6-Dimethyl-5-[({1-[4-(5-methyl-pyrazol-1-ylmethyl)-benzyl]-1H-[1,2,3]triazole-4-carbonyl}-amino)-methyl]-pyridin-2-yl}-carbamic acid tert-butyl ester | 0.249 mmol, 132 mg | C(C)(C)(C)OC(NC1=NC(=C(C(=C1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CN1N=CC=C1C)C)=O | C28H34N8O3
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(5-Methyl-pyrazol-1-ylmethyl)-benzyl]-1H-[1,2,3]triazole-4-carboxylic acid (6-amino-2,4-dimethyl-pyridin-3-ylmethyl)-amide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1N=NN(C1)CC1=CC=C(C=C1)CN1N=CC=C1C)C | C23H26N8O
